US07579341B2
(R)-1-(4-amino-3-chloro-5-trifluoromethyl-benzyl)-2-[4-(4-carboxymethyl-piperazin-1-yl)-4-methyl-piperidin-1-yl]-2-oxo-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate
Prepared analogously to Example 19.1 from 100 mg (0.12 mmol) (R)-1-(4-amino-3-chloro-5-trifluoromethyl-benzyl)-2-[4-(4-ethoxycarbonylmethyl-piperazin-1-yl)-4-methyl-piperidin-1-yl]-2-oxo-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate and 10.0 mg (0.42 mmol) LiOH.

reactant | (R)-1-(4-amino-3-chloro-5-trifluoromethyl-benzyl)-2-[4-(4-ethoxycarbonylmethyl-piperazin-1-yl)-4-methyl-piperidin-1-yl]-2-oxo-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate | 0.12 mmol, 100 mg | O=C1NC2=C(CCN1C1CCN(CC1)C(=O)O[C@@H](C(=O)N1CCC(CC1)(C)N1CCN(CC1)CC(=O)OCC)CC1=CC(=C(C(=C1)C(F)(F)F)N)Cl)C=CC=C2 | C39H51ClF3N7O6
reactant | LiOH | 0.42 mmol, 10.0 mg | [Li+].[OH-]
product | (R)-1-(4-amino-3-chloro-5-trifluoromethyl-benzyl)-2-[4-(4-carboxymethyl-piperazin-1-yl)-4-methyl-piperidin-1-yl]-2-oxo-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate | O=C1NC2=C(CCN1C1CCN(CC1)C(=O)O[C@@H](C(=O)N1CCC(CC1)(C)N1CCN(CC1)CC(=O)O)CC1=CC(=C(C(=C1)C(F)(F)F)N)Cl)C=CC=C2 | C37H47ClF3N7O6
